US06090817
A stirred mixture of 3'-bromo-4'-methoxy-[1,1'-biphenyl]-4-carboxylic acid (19.2 g, 62.5 mmol) and dimethylformamide (0.1 mL) in toluene (200 mL) at 20° C. is treated with oxalyl chloride (11.0 mL, 126 mmol).The mixture is then heated at 50° C. for 1 h and then evaporated to dryness under reduced pressure. The resulting crude acid chloride is dissolved in dry tetrahydrofuran (250 mL) and added dropwise to a stirred solution of lithium tert-butylate in tetrahydrofuran (prepared by the slow addition of 32.5 mL of n-butyl lithium to a solution of 23.5 mL of dry t-butanol in 200 mL of dry tetrahydrofuran at 20° C.). The mixture is stirred for an additional 2 h, then treated with a saturated aqueous solution of ammonium chloride (400 mL) and extracted with t-butylethyl ether (2×300 mL). The combined extracts are dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by chromatography (silica gel, 20% ethyl acetate in cyclohexane) and recrystallised from t-butylethyl ether-hexane to give 3'-bromo-4'-methoxy-[1,1'-biphenyl]-4-carboxylic acid, 2,2-dimethylpropyl ester as a colourless crystalline solid.

reactant | 3'-bromo-4'-methoxy-[1,1'-biphenyl]-4-carboxylic acid | 62.5 mmol, 19.2 g | BrC=1C=C(C=CC1OC)C1=CC=C(C=C1)C(=O)O | C14H11BrO3
reactant | dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 126 mmol, 11.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium chloride | 400 mL | [Cl-].[NH4+]
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 3'-bromo-4'-methoxy-[1,1'-biphenyl]-4-carboxylic acid, 2,2-dimethylpropyl ester | BrC=1C=C(C=CC1OC)C1=CC=C(C=C1)C(=O)OCC(C)(C)C | C19H21BrO3
